** sch_path: CDR4176-main/schematic/xschem/and_custom/and_custom.sch
**.subckt and_custom VDD OUT A B VSS
*.ipin A
*.iopin VDD
*.opin OUT
*.iopin VSS
*.ipin B
x1 VDD OUT net1 VSS inv
x2 VDD net1 A B VSS nand_custom
**.ends

* expanding   symbol:  CDR4176-main/schematic/xschem/inv/inv.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv/inv.sym
** sch_path: CDR4176-main/schematic/xschem/inv/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=2
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/nand_custom/nand_custom.sym # of pins=5
** sym_path: CDR4176-main/schematic/xschem/nand_custom/nand_custom.sym
** sch_path: CDR4176-main/schematic/xschem/nand_custom/nand_custom.sch
.subckt nand_custom VDD OUT A B VSS
*.iopin VDD
*.iopin VSS
*.ipin A
*.ipin B
*.opin OUT
XM1 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM3 net1 B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM4 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends

.end
